US08754229B2
Preparation of methyl 4-amino-5-fluoro-6-(3-fluoro-4-(trimethylsilyl)phenyl)-3-methoxypicolinate (Compound 14)
To a 5-mL microwave safe vial were added methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate (0.400 g, 1.705 mmol), (2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)trimethylsilane (0.690 g, 2.344 mmol), KF (0.297 g, 5.11 mmol), and PdCl2(PPh3)2 (0.120 g, 0.170 mmol). A mixture of H2O (1 mL) and CH3CN (2 mL) was added, and the reaction vial was capped and placed in a Biotage Initiator microwave reactor for 20 min at 115° C. with external infrared (IR)-sensor temperature monitoring from the side of the vessel. Upon cooling to room temperature, the reaction mixture was diluted with CH2Cl2 (25 mL) and H2O (25 mL), and the organic layer was filtered through a cotton plug. An additional extraction using EtOAc (25 mL) was combined with the CH2Cl2 and dried over Na2SO4 (50 g). Following filtration of the combined organics through a cotton plug and concentration on a rotary evaporator, the residue was purified using a Teledyne ISCO purification system with a gradient eluent system of CH2Cl2 and EtOAc to yield the title compound as a light pink oil (333 mg, 53%): 1H NMR (400 MHz, CDCl3) δ 7.66 (d, J=7.6 Hz, 1H), 7.55 (d, J=9.8 Hz, 1H), 7.46 (dd, J=7.6, 5.9 Hz, 1H), 4.57 (s, 2H), 3.98 (s, 3H), 3.96 (s, 3H), 0.33 (s, 9H); 19F NMR (376 MHz, CDCl3) δ −100.72, −140.12; ESIMS m/z 367 ([M+H]+).

reactant | methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate | 1.705 mmol, 0.400 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)OC | C8H8ClFN2O3
reactant | (2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)trimethylsilane | 2.344 mmol, 0.690 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)[Si](C)(C)C | C15H24BFO2Si
reactant | KF | 5.11 mmol, 0.297 g | [F-].[K+]
reactant | CH3CN | 2 mL | CC#N | C2H3N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 0.170 mmol, 0.120 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 1 mL | O | H2O
product | methyl 4-amino-5-fluoro-6-(3-fluoro-4-(trimethylsilyl)phenyl)-3-methoxypicolinate | 333 mg, 53% | NC1=C(C(=NC(=C1F)C1=CC(=C(C=C1)[Si](C)(C)C)F)C(=O)OC)OC | C17H20F2N2O3Si
